US04841067
To a solution of 600 mg of 3-chloroperoxybenzoic acid in 5 ml of dry chloroform was added a solution of 850 mg of (3S)-3-carbobenzoxyamino-5-methyl-1-hexene in 5 ml of dry chloroform under ice-cooling, and the mixture was stirred for 16 hours. Dichloromethane was added to the reaction mixture, and the mixture was successively washed with an aqueous sodium thiosulfate solution, a 5% aqueous sodium bicarbonate solution and a saturated sodium chloride aqueous solution, dried over anhydrous magnesium sulfate, and evaporated under reduced pressure. The residue was purified by silica gel flash column chromatography (eluent: benzene/hexane=1/1 by volume) to obtain 401 mg of (3S)-3-carbobenzoxyamino-5-methyl-1,2-epoxyhexane as a colorless oil.

reactant | 3-chloroperoxybenzoic acid | 600 mg | ClC=1C=C(C(=O)OO)C=CC1 | C7H5ClO3
reactant | (3S)-3-carbobenzoxyamino-5-methyl-1-hexene | 850 mg | C(=O)(OCC1=CC=CC=C1)N[C@H](C=C)CC(C)C | C15H21NO2
reactant | Dichloromethane | ClCCl | CH2Cl2
solvent | chloroform | 5 ml | C(Cl)(Cl)Cl | CHCl3
solvent | chloroform | 5 ml | C(Cl)(Cl)Cl | CHCl3
product | (3S)-3-carbobenzoxyamino-5-methyl-1,2-epoxyhexane | 401 mg | C(=O)(OCC1=CC=CC=C1)N[C@H](C1CO1)CC(C)C | C15H21NO3
